US07132551B2
Synthesis of {1-[1-(4-Chloro-phenyl)-cyclobutylmethyl]-azepan-3-yl}-methanol
To a stirring 0° C. solution of [1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxymethyl-azepan-1-yl)-methanone (0.075 g, 0.26 mmol) under N2 in toluene (2.6 mL, 0.1M) was added sodium bis(2-methoxyethoxy)aluminum hydride (65+ weight % in toluene) (0.28 mL, 0.91 mmol) dropwise with stirring. When the reaction was complete by HPLC, the reaction was quenched with H2O. 10% NaOH and ethyl acetate were added, and the organic was removed, dried with Na2SO4, and concentrated. The crude reaction mixture was purified by silica gel chromatography (90:8:2 Hexanes:methylene chloride:2N NH3 in ethyl alcohol). A 39% yield (0.0290 g) of pure material was obtained as well as other impure fractions. 1H NMR (CDCl3, 300 MHz) 7.28–7.25 (2H, m), 7.15–7.09 (2H, m), 3.44 (1H, dd, J=10.5, 4.5 Hz), 3.27 (1H, dd, J=10.3, 5.5 Hz), 2.89 (1H, d, J=13.9 Hz), 2.83 (1H, d, J=13.9 Hz), 2.72–2.60 (1H, m), 2.50–1.10 (16H, m) ppm. 13C NMR (CDCl3, 75 MHz) 146.5, 131.22, 128.10, 127.93, 70.95, 67.49, 61.85, 59.10, 47.62, 40.59, 32.12, 31.90, 29.92, 25.41, 16.20 ppm. LRMS: 308.24.

reactant | [1-(4-Chloro-phenyl)-cyclobutyl]-(3-hydroxymethyl-azepan-1-yl)-methanone | 0.26 mmol, 0.075 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)N1CC(CCCC1)CO | C18H24ClNO2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 0.91 mmol, 0.28 mL | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | toluene | 0.1M, 2.6 mL | C1(=CC=CC=C1)C | C7H8
product | {1-[1-(4-Chloro-phenyl)-cyclobutylmethyl]-azepan-3-yl}-methanol | 0.0290 g, 39% yield | ClC1=CC=C(C=C1)C1(CCC1)CN1CC(CCCC1)CO | C18H26ClNO
